US08026257B2
7-Bromo-5-chloro-2-cyclopropyl-2H-indazole.
2-Azido-3-bromo-5-chlorobenzaldehyde (1.38 g, 5.30 mmol) and cyclopropylamine (0.37 mL, 5.30 mmol) in methylene chloride (20 mL) were treated with molecular sieves (1.5 g). The reaction was stirred at room temperature for 2 h, filtered over celite and the resulting solution evaporated in vacuo. The resulting oil was suspended in toluene (15 mL) and heated at reflux for 2 h. After cooling to room temperature, the mixture was poured into ice water and extracted with diethyl ether (2×). The organic layers were pooled together, washed with brine (2×), dried over sodium sulfate, and concentrated. Column chromatography on silica gel (15% ethyl acetate/hexanes) gave 1.1 g (76%) as a light yellow solid. 1H-NMR (CDCl3, 500 MHz) δ 8.7 (s, 1H), 7.81 (d, J=2.6 Hz, 1H), 7.53 (d, J=2.6 Hz, 1H), 3.05-3.09 (m, 1H), 0.95-0.99 (m, 4H). Mass spec.: 273.03 (MH)+.

reactant | 2-Azido-3-bromo-5-chlorobenzaldehyde | 5.30 mmol, 1.38 g | N(=[N+]=[N-])C1=C(C=O)C=C(C=C1Br)Cl | C7H3BrClN3O
reactant | cyclopropylamine | 5.30 mmol, 0.37 mL | C1(CC1)N | C3H7N
solvent | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
product | 7-Bromo-5-chloro-2-cyclopropyl-2H-indazole | BrC1=CC(=CC2=CN(N=C12)C1CC1)Cl | C10H8BrClN2
